US06274585B1
c) (+)-5-Methoxycarbonyl-4-methoxymethyl-1,2,3,6-tetrahydro-2-oxo-6-(3,4-difluorophenyl)-1-[(4-nitrophenyloxy)-carbonyl]pyrimidine
To a solution of (+)-5-methoxycarbonyl-4-methoxymethyl-1,2,3,6-tetrahydro-2-oxo-6-(3,4-difluorophenyl)-pyrimidine (1.98 g, 6.34 mmol) in anhydrous THF (20 mL) at −78° C. under argon atmosphere, a solution of lithium hexamethyldisilazide in THF (1M, 18 mL, 18 mmol) was added over 2-3 min. and the mixture was stirred for 10 min. This solution was added over 6 min. via a cannula to a stirred solution of 4-nitrophenyl chloroformate (4.47 g, 22.2 mmol) in THF (20 mL) at −78° C. The stirring was continued for 10 min and the mixture was poured onto ice (50 g) and extracted with chloroform (2×50 mL). The combined extracts were dried (sodium sulfate) and the solvent evaporated. The residue was purified by flash column chromatography using hexanes/ethyl acetate (4:1 to 3.5:1) as eluent. The product was obtained as a yellow syrup which on trituration with hexane became white powder (2.4 g, 79%). 1H NMR (CDC13) δ 3.522 (s, 3H), 3.744 (s, 3H), 4.65-4.80 (q, J=16.5 Hz, 2H), 6.323 (s, 1H), 7.10-7.30 (m, 4H), 7.358 (d, J=9 Hz, 2H), 8.273 (d, J=9 Hz, 2H).

reactant | (+)-5-methoxycarbonyl-4-methoxymethyl-1,2,3,6-tetrahydro-2-oxo-6-(3,4-difluorophenyl)-pyrimidine | 6.34 mmol, 1.98 g | COC(=O)C1=C(NC(NC1C1=CC(=C(C=C1)F)F)=O)COC | C14H14F2N2O4
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4-nitrophenyl chloroformate | 22.2 mmol, 4.47 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 18 mmol, 1M, 18 mL | C1CCOC1 | C4H8O
product | (+)-5-Methoxycarbonyl-4-methoxymethyl-1,2,3,6-tetrahydro-2-oxo-6-(3,4-difluorophenyl)-1-[(4-nitrophenyloxy)-carbonyl]pyrimidine | COC(=O)C1=C(NC(N(C1C1=CC(=C(C=C1)F)F)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O)COC | C21H17F2N3O8
